US07223788B2
(R)-2-Chloro-N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]acetamide
Triethylamine (2.03 g) was added to a solution of (R)-[1-(4-aminophenyl)pyrrolidin-3-yl]-dimethylamine (3.15 g) in dichloromethane (120 ml), and then chloroacetyl chloride (2.26 g) was added dropwise. After 3 hours, the mixture was diluted with dichloromethane and washed with water and brine. The organic phase was dried over sodium sulfate, filtered and concentrated. The residue was purified by chromatography (silica gel, eluent: methanol/dichloromethane). This resulted in the product with the molecular weight of 281.79 (C14H20ClN3O); MS (ESI): 282 (M+H+).

reactant | Triethylamine | 2.03 g | C(C)N(CC)CC | C6H15N
reactant | (R)-[1-(4-aminophenyl)pyrrolidin-3-yl]-dimethylamine | 3.15 g | NC1=CC=C(C=C1)N1C[C@@H](CC1)N(C)C | C12H19N3
reactant | chloroacetyl chloride | 2.26 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | (R)-2-Chloro-N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]acetamide | ClCC(=O)NC1=CC=C(C=C1)N1C[C@@H](CC1)N(C)C | C14H20ClN3O
